US03953464
2.4 g. 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide are boiled for 1 hour with 2 g. acetyl-salicylic acid and 1.32 g. triethylamine in 100 cc. chloroform. After working up in the usual manner, there is obtained 3-(acetylsalicyloylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide in the form of colourless crystals which, after recrystallisation from ethyl acetate, melts at 160°C. Structurally, the compounds of this invention are: ##SPC4##Example R1R2 salt melting point (°C)______________________________________ 4 methyl phenoxy -- 138-139 5 phenyl methyl -- 119 6 phenyl ethyl -- 170 7 phenyl iso- -- 122 propyl 8 methyl -- 168-169 9 phenyl -- 13410 methyl -- 17011 methyl methoxy -- 16612 phenyl ethoxy -- 16313 methyl butoxy-2 -- 12514 phenyl phenoxy -- 17315 methyl --O--CH2 --CH2 -- -- 108-190 OCH316 phenyl --CH2 --O--C6H4 -- -- 196 Cl(r)17 phenyl --CH2 --C6H5 -- 12018 methyl --O--C6H11 -- 126-12819 phenyl --C6H4 --O--CO-- -- 160 CH 3 (o)______________________________________

reactant | 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide | N=C1NS(C2=C1C=CC=C2)(C2=CC=CC=C2)=O | C13H12N2OS
reactant | acetyl-salicylic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(acetylsalicyloylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide | C(C)(=O)OC=1C(C(=O)N=C2NS(C3=C2C=CC=C3)(C3=CC=CC=C3)=O)=CC=CC1 | C22H18N2O4S
